US08957064B2
Step 3: 7-chloro-2-methyl-6-phenyl-imidazo[1,2-a]pyrimidine
8.3 g (30 mmol) 5,7-Dichloro-2-methyl-6-phenyl-imidazo[1,2-a]pyrimidine are dissolved in 14.5 mL methanol and 85 mL THF. After addition of 3.4 mL acetic acid 5.8 g (45 mmol) zinc/copper pair are added in portions and the mixture is stirred at rt for four and a half hours. The reaction mixture is filtered via a glass microfibre filter and washed with plenty of methanol. The solvent has been removed and the residue redissolved in ethyl acetate. After washing twice with brine and drying over Na2SO4, the solvent is evaporated and the residue purified by chromatography on silica gel (dichloromethane/methanol) yielding only 260 mg of the desired compound. 2N NaOH is added to the zinc/copper slurry of the reaction until a pH of 8. Afterwards the slurry is treated four times with 300 mL ethyl acetate/methanol (1%) each. The solvent mixture is decanted each time and the extracts are combined. After evaporation of the solvents 3.1 g of the desired product are obtained. Repetition of this process yields additional 2.32 g product. Altogether 74.4% of the desired material have been obtained.

reactant | 5,7-Dichloro-2-methyl-6-phenyl-imidazo[1,2-a]pyrimidine | 30 mmol, 8.3 g | ClC1=C(C(=NC=2N1C=C(N2)C)Cl)C2=CC=CC=C2 | C13H9Cl2N3
reactant | acetic acid | 45 mmol, 3.4 mL, 5.8 g | C(C)(=O)O | C2H4O2
solvent | methanol | 14.5 mL | CO | CH4O
solvent | THF | 85 mL | C1CCOC1 | C4H8O
product | 7-chloro-2-methyl-6-phenyl-imidazo[1,2-a]pyrimidine | 260 mg | ClC1=NC=2N(C=C1C1=CC=CC=C1)C=C(N2)C | C13H10ClN3
